US07105515B2
To a solution of 3.05 g (15 mMol) of 5-amino-3-(2-dimethylaminoethyl)-1H-indol in 100 ml of pyridine is added dropwise at ambient temperature a solution of 4.21 g (15 mMol) of 5-chloro-3-methyl-benzo[b]thiophene-2-sulphonyl chloride in 20 ml of pyridine. The reaction mixture is stirred at ambient temperature for 20 hours. It is then evaporated to dryness, slightly alkalinised with diluted ammonia and dissolved in ethyl acetate. The organic phase is washed with water and a saturated solution of sodium bicarbonate, it is separated and dried with anhydrous sodium sulphate. The organic solution is evaporated to dryness and the resulting solid is repeatedly washed with ethyl ether, to yield 5.5 g (82%) of N-[3-(2-dimethylaminoethyl)-1H-indol-5-yl]-5-chloro-3-methyl-benzo[b]thiophene-2-sulphonamide as a solid with m.p.=226-227° C.

reactant | 5-amino-3-(2-dimethylaminoethyl)-1H-indol | 15 mMol, 3.05 g | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 5-chloro-3-methyl-benzo[b]thiophene-2-sulphonyl chloride | 15 mMol, 4.21 g | ClC1=CC2=C(SC(=C2C)S(=O)(=O)Cl)C=C1 | C9H6Cl2O2S2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(2-dimethylaminoethyl)-1H-indol-5-yl]-5-chloro-3-methyl-benzo[b]thiophene-2-sulphonamide | 5.5 g, 82% | CN(CCC1=CNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C)C | C21H22ClN3O2S2
